US06821967B2
a. 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-3-methoxy-benzylamide
Prepared analogously to Example 1 from 3-methoxybenzylamine and 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride.

reactant | 3-methoxybenzylamine | COC=1C=C(CN)C=CC1 | C8H11NO
reactant | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid chloride | BrCCCCC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)Cl | C18H16BrClO
product | 9-(4-bromo-butyl)-9H-fluorene-9-carboxylic acid-3-methoxy-benzylamide | COC=1C=C(CNC(=O)C2(C3=CC=CC=C3C=3C=CC=CC23)CCCCBr)C=CC1 | C26H26BrNO2
